US04414390
To a solution of aluminum chloride (44 g) and α-bromopropionyl chloride (43 g) in carbon disulfide (150 ml) was added portionwise 3,4-dihydrocarbostyril (8 g) while refluxing with stirring. After completion of addition, the mixture was refluxed with stirring for 2 hours. After cooling, the mixture was poured into ice water and crystals which precipitated were collected by filtration and washed with water. Recrystallization from ethanol gave 14.2 g of 6-(α-bromopropionyl)-3,4-dihydrocarbostyril.

reactant | aluminum chloride | 44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | α-bromopropionyl chloride | 43 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | 3,4-dihydrocarbostyril | 8 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
solvent | carbon disulfide | 150 ml | C(=S)=S | CS2
product | 6-(α-bromopropionyl)-3,4-dihydrocarbostyril | 14.2 g | BrC(C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C12H12BrNO2
